US06914768B2
Next, the reaction solution of triethylmethylammonium methylcarbonate was reacted with 42% aqueous solution of fluoroboric acid at room temperature to obtain a reaction solution of triethylmethylammonium tetrafluoroborate. Then, the reaction solution of triethylmethylammonium tetrafluoroborate was added to n-butanol and subjected to rectification to remove methanol, dimethyl carbonate and water to obtain a tank bottom liquid containing crude triethylmethylammonium tetrafluoroborate. Then, the crude triethylmethylammonium tetrafluoroborate was purified by crystallization using n-butanol/water mixed solvent (85/15 in weight ratio) to obtain purified triethylmethylammonium tetrafluoroborate.

reactant | triethylmethylammonium methylcarbonate | COC([O-])=O.C(C)[N+](C)(CC)CC
reactant | fluoroboric acid | F[B-](F)(F)F.[H+]
product | triethylmethylammonium tetrafluoroborate | F[B-](F)(F)F.C(C)[N+](C)(CC)CC | InChI=1S/C7H18N.BF4/c1-5-8(4,6-2)7-3;2-1(3,4)5/h5-7H2,1-4H3;/q+1;-1
